US03992420
A solution of 22.4 g [0.11 mol] of m-chloroperbenzoic acid [85% strength] in 300 ml of dry methylene chloride is added dropwise to a solution of 24.6 g [0.10 mol] of 4-allyl-2,6-di-tert.-butylphenol of boiling point6 : 134°-36° C [manufactured according to the datain Journ. Org. Chem. USSR 1967, 95] in 175 ml of dry methylene chloride at room temperature, at a speed such that the temperature of the reaction solution does not exceed room temperature. Stirring is continued at room temperature until a sample of the reaction solution indicates that 1 equivalent of peracid has been consumed. Thereafter, excess peracid is destroyed by adding 10% strength aqueous sodium sulphate solution and the organic phase is successively extracted with 5% strength sodium bicarbonate solution and with water, dried over sodium sulphate and evaporated. Crude 3,5-di-tert.-butyl-4-hydroxybenzyl-oxirane is obtained as a brownish oil which, when recrystallized from petroleum ether, yields colorless crystals of melting point 86°-87° C.

reactant | m-chloroperbenzoic acid | 0.11 mol, 22.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-allyl-2,6-di-tert.-butylphenol | 0.10 mol, 24.6 g | C(C=C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C17H26O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
product | 3,5-di-tert.-butyl-4-hydroxybenzyl-oxirane | C(C)(C)(C)C=1C=C(CC2OC2)C=C(C1O)C(C)(C)C | C17H26O2
